Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
"hopelessness and feeling sick"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with depression and
polysubstance use (IV meth) who presented to the ED with 1 day 
of
fevers as well as increasing thoughts of suicidality.

History from patient is limited as he just got Benadryl in the 
ED
for redman syndrome from vancomycin and is very drowsy. 

He says he came to the ED because, "I was feeling hopeless and
feeling sick," he says.

He was feeling hopeless and wanted to kill himself. His plan was
to take a large amount of heroin. He has been feeling this way
for months. He has had 3 suicide attempts in the past, all by
overdose.

He also complained of generalized malaise and vomiting for about
a week. The emesis has been orange colored. The last episode was
about 24 hours ago. He says he is nauseated but is also asking
for food. He had subjective fevers for the past 1 day. He denies
diarrhea - he has not had a bowel movement for 1 week, which is
common for him because of the heroin and Suboxone he uses. No
dysuria. No unintentional weight loss. 

He denies headache, visual changes. No chest pain, palpitations,
or shortness of breath. He denies back pain or joint
pain/swelling. His skin is "a mess," mostly from picking. He has
a lesion on his penis from "picking and having a lot of sex." He
only has female partners. He has had 2 partners in the last
month. He does not use protection.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

ED COURSE:
VS: Tmax 100, HR ___, BP 120s-150s/70s-80s, RR ___, SpO2
94-97% on RA
Exam: excoriations across bilateral lower extremities and penis,
lungs CTAB, no cardiac murmur, no stigmata of endocarditis, no
back tenderness
Labs: Normocyctic anemia, WBC wnl, plt wnl, CRP 77.1, Lactate
1.6, Utox positive for amphetamines, flu negative
Imaging: CXR clear
Interventions: acetaminophen 1000 mg PO, vancomycin 1500 mg IV
He developed Red Man syndrome to vanco and was given Benadryl

 
Past Medical History:
Major depressive disorder with prior suicide attempts
Polysubstance abuse

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION
VITALS: T 98.1, HR 73, BP 124/82, RR 14, SpO2 95% on RA
GENERAL: Drowsy but able to rouse, breathing room air 
comfortably
EYES: Anicteric, PERRL
ENT: OP clear, mucous membranes slightly tacky
CV: NR/RR, no m/r/g. JVP not elevated.
RESP: CTAB, no wheezes or crackles.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: ~0.5 cm penile ulceration
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Scabs and excoriations over all limbs, no ___ lesions
___ nodes, no splinter hemorrhages
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: withdrawn

DISCHARGE
VS: 98.4 PO 118 / 71 52 18 95 RA 
Gen - asleep, awakening to voice, then sitting up; comfortable 
appearing
Eyes - EOMI, PERRL
ENT - OP clear, MMM
Ext - no edema
Skin - erythematous lesion on shaft of penis with clean borders; 
now with overlying scab, improved in appearance; no exudate; no 
other skin lesions
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate affect
 
Pertinent Results:
ADMISSION
___ 09:50AM BLOOD WBC-7.7 RBC-4.42* Hgb-12.9* Hct-38.3* 
MCV-87 MCH-29.2 MCHC-33.7 RDW-13.2 RDWSD-41.0 Plt ___
___ 09:50AM BLOOD Glucose-102* UreaN-11 Creat-0.9 Na-135 
K-3.7 Cl-95* HCO3-22 AnGap-18
___ 12:40PM BLOOD ALT-21 AST-32 AlkPhos-70 TotBili-0.4

CXR - ___ 
No evidence of acute cardiopulmonary process. 

___ - BCx - WITHOUT GROWTH AT DISCHARGE
___ - Bcx - WITHOUT GROWTH AT DISCHARGE

 
Brief Hospital Course:
Mr. ___ is a ___ male  past medical history of 
majkor depressive disorder and polysubstance abuse admitted 
___ with viral enteritis and suicidal ideation, 
recommended for voluntary inpatient psychiatric admission, 
course notable for patient expressing interest in suboxone 
re-initiation, discharged to ___.

# Nausea and vomiting secondary to viral enteritis 
Patient presented with several days of nausea and vomiting in 
setting of malaise.  Patient had a nonfocal abdominal exam and 
labs were reassuring.  He was felt to have viral enteritis and 
was treated supportively with improvement in his symptoms over 
___ days following admission. Blood cultures remained without 
growth during his hospital course.

# Penis rash
Admitted with erythematous patch over shaft of penis.  Patient 
reported he thought it was related to friction from "too much 
sex".  He declined HIV testing.  GC/chlamydia testing negative.  
RPR negative.  No vesicular component to suggest HSV.  Patch 
resolved without intervention--may have actually related to 
friction.  Counseled re: important of safe sex.

# Major depressive disorder with suicidal ideation
Patient reported worsening depression and suicidal ideation at 
time of admission.  He was seen by psychiatry service who 
recommended voluntary inpatient psychiatric admission.  Patient 
was screened by BEST team and was subsequently discharged to 
HRI.  Continued home duloxetine.  

# Polysubstance abuse
On admission patient reported recent use of multiple drugs, 
including suboxone he had purchased illicitly.  He had mild 
opiate withdrawal symptoms including diaphoresis and anxiety, 
treated symptomatically with clonidine.  He reported previously 
being prescribed suboxone, but not in recent years.  He 
expressed an interest in being initiated on this--before this 
could be done, a psychiatric bed was identified.  Would consider 
suboxone initiation while at facility. 

# Drug reaction
Developed "red man syndrome" in the ED while receiving IV 
vancomycin.  No respiratory issues.  Resolved by the time 
patient arrived on the floor.  Antibiotics were not continued 
given no indication.  

Transitional issues
- Patient discharged to ___ for psychiatric treatment for 
depression
- Patient previously on suboxone in the remote past; more 
recently reported abusing opiates and buying suboxone illicitly; 
this admission he expressed an interest in starting suboxone 
treatment; please consider starting on suboxone with 
coordination with his PCP's office
- Would consider HIV testing if patient will consent 

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 60 mg PO BID 

 
Discharge Medications:
1.  DULoxetine 60 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Nausea and vomiting secondary to viral enteritis 
# Polysubstance abuse
# Major depressive disorder with suicidal ideation
# Penis rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with fever and vomiting.  This was likely caused by a viral 
infection.  You improved and were able to eat a normal diet 
without any additional symptoms.  

During your hospital stay you reported feelings of depression 
and wanting to hurt yourself.  You were seen by psychiatrists 
who recommended inpatient treatment for your depression.

You also expressed an interest getting treated for opiate 
dependence.  We have requested that your psychiatric facility 
consider starting treatment with suboxone for you.  

You are now ready for discharge

 
Followup Instructions:
___